US07595398B2
4-(2-Amino-thiazol-4-yl)-benzoic acid
Thiourea (0.47 g, 6.2 mmol) and NaOAc (1.5 g, 6.2 mmol) were combined in 35 mL of ethanol. To this suspension was added 4-(2-bromo-acetyl)-benzoic acid (1.5 g, 6.2 mmol). The reaction mixture was stirred at room temperature overnight. It was evaporated to dryness and used in the next step without any further purification. MS: 221.0 (M+H+)

reactant | Thiourea | 6.2 mmol, 0.47 g | NC(=S)N | CH4N2S
reactant | NaOAc | 6.2 mmol, 1.5 g | CC(=O)[O-].[Na+]
reactant | 4-(2-bromo-acetyl)-benzoic acid | 6.2 mmol, 1.5 g | BrCC(=O)C1=CC=C(C(=O)O)C=C1 | C9H7BrO3
solvent | ethanol | 35 mL | C(C)O | C2H6O
product | 4-(2-Amino-thiazol-4-yl)-benzoic acid | NC=1SC=C(N1)C1=CC=C(C(=O)O)C=C1 | C10H8N2O2S
